US06750230B2
5-{[3,5-Diethyl-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]sulfanyl}isophthalonitrile
5-{[1-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-3,5-diethyl-1H-pyrazol-4-yl]sulfanyl}isophthalonitrile (180 mg, 0.4 mmol) (Preparation 51) was treated with tetrabutylammonium fluoride (1M solution in tetrahydrofuran, 0.8 ml, 0.8 mmol) and the resulting solution was stirred for 2½ hours. The mixture was concentrated under reduced pressure to give a brown oil. The crude product was purified by flash chromatography on silica gel eluting with ethyl acetate:dichloromethane (1:4, by volume) to provide the title compound (70 mg) as a yellow oil.

reactant | 5-{[1-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-3,5-diethyl-1H-pyrazol-4-yl]sulfanyl}isophthalonitrile | 0.4 mmol, 180 mg | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C(=C1CC)SC=1C=C(C=C(C#N)C1)C#N)CC | C23H32N4OSSi
reactant | tetrabutylammonium fluoride | 0.8 mmol, 1M, 0.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-{[3,5-Diethyl-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]sulfanyl}isophthalonitrile | 70 mg | C(C)C1=NN(C(=C1SC=1C=C(C=C(C#N)C1)C#N)CC)CCO | C17H18N4OS
